US07812183B2
and 4-[1-(4-Chloro-phenyl)-1H-pyrazol-3-yloxy]-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol (Compound #109)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene and 1-(4-chloro-phenyl)-1,2-dihydro-pyrazol-3-one as starting materials, the title compounds were prepared as pale yellow solids.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-6-aza-cyclopropa[a]naphthalene | CC1(C2C(C3=CN=CC=C3O1)O2)C | C10H11NO2
reactant | 1-(4-chloro-phenyl)-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)N1NC(C=C1)=O | C9H7ClN2O
product | 4-[1-(4-Chloro-phenyl)-1H-pyrazol-3-yloxy]-2,2-dimethyl-3,4-dihydro-2H-pyrano[3,2-c]pyridin-3-ol | ClC1=CC=C(C=C1)N1N=C(C=C1)OC1C(C(OC2=C1C=NC=C2)(C)C)O | C19H18ClN3O3
